US07666864B2
Step 2: N-[((5S)-3-{3-Fluoro-4-[5-({[(6S)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl]oxy}methyl)-2-thienyl]phenyl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide.
A mixture of (6S)-6-[(5-bromo-2-thienyl)methoxy]-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine (0.200 g, 0.555 mmol) and N-({(5S)-3-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide (0.252 g, 0.666 mmol) in EtOH (3 mL), toluene (5 mL), DMF (8 mL) and K2CO3 (2 mL, 2 M, 4 mmol) was purged with nitrogen. PdCl2(dppf) (23 mg, 0.03 mmol) was added and the mixture was refluxed under nitrogen for 1 h then partitioned between EtOAc and water. Column chromatography (9:1 DCM/MeOH) gave a solid which was then reprecipitated from DCM/MeOH to give the titled compound (0.142 g, 48%) as a pale grey solid. APCI MS m/z 532 (M+H). 1H NMR (400 MHz, DMSO-d6) δ 8.21 (t, J=5.7 Hz, 1H), 8.02 (s, 1H), 7.76 (t, J=8.9 Hz, 1H), 7.59 (dd, J=14.0, 2.1 Hz, 1H), 7.36-7.43 (m, 2H), 7.13 (d, J=3.3, 1H), 4.87 (d, J=13.6 Hz, 1H), 4.84 (d, J=13.6 Hz, 1H), 4.72-4.80 (m, 1H), 4.64 (bd, J=12.4 Hz, 1H), 4.47 (d, J=11.9 Hz, 1H), 4.21-4.30 (m, 3H), 4.15 (t, J=9.1 Hz, 1H), 3.74-3.81 (m, 1H), 3.43 (t, J=5.4 Hz, 2H), 1.84 (s, 3H).

reactant | (6S)-6-[(5-bromo-2-thienyl)methoxy]-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine | 0.555 mmol, 0.200 g | BrC1=CC=C(S1)CO[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-] | C11H10BrN3O4S
reactant | N-({(5S)-3-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | 0.666 mmol, 0.252 g | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1C(O[C@H](C1)CNC(C)=O)=O | C18H24BFN2O5
reactant | K2CO3 | 4 mmol, 2 M, 2 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.03 mmol, 23 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[((5S)-3-{3-Fluoro-4-[5-({[(6S)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl]oxy}methyl)-2-thienyl]phenyl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide | 0.142 g, 48% | FC=1C=C(C=CC1C=1SC(=CC1)CO[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])N2C(O[C@H](C2)CNC(C)=O)=O | C23H22FN5O7S
